US07622449B2
Step A: Preparation of 4-[(2S,3R)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-1-(4-{3-[(methylsulfonyl)amino]prop-1-yn-1-yl}phenyl)-4-oxoazetidin-2-yl]phenyl methyl β-D-glucopyranosiduronate (Compound 7a)
Triethylamine (0.07 mL, 0.502 mmol) was added to a stirred solution of 4-[(2S,3R)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-1-(4-iodophenyl)-4-oxoazetidin-2-yl]phenyl methyl β-D-glucopyranosiduronate (i-7) (0.050 g, 0.071 mmol), N-prop-2-yn-1-ylmethanesulfonamide (i-5) (0.014 g, 0.105 mmol), tetrakistriphenylphosphine palladium(0) (0.012 g, 0.010 mmol) and copper iodide (0.005 g, 0.026 mmol) in DMF (0.5 mL) under a nitrogen atmosphere and the resulting solution aged at room temperature for 18 h. The volatiles were evaporated in vacuo and the crude residue purified by flash chromatography on silica gel (gradient elution; 0-25% methanol/methylene chloride as eluent) to afford the title compound; m/z (ES) 713 (MH+), 505.

reactant | Triethylamine | 0.502 mmol, 0.07 mL | C(C)N(CC)CC | C6H15N
reactant | 4-[(2S,3R)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-1-(4-iodophenyl)-4-oxoazetidin-2-yl]phenyl methyl β-D-glucopyranosiduronate | 0.071 mmol, 0.050 g | O([C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)C(=O)OC)C1=CC=C(C=C1)[C@H]1N(C([C@@H]1CC[C@H](O)C1=CC=C(C=C1)F)=O)C1=CC=C(C=C1)I | C31H31FINO9
reactant | N-prop-2-yn-1-ylmethanesulfonamide | 0.105 mmol, 0.014 g | C(C#C)NS(=O)(=O)C | C4H7NO2S
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
catalyst | copper iodide | 0.026 mmol, 0.005 g | [Cu](I)I
product | 4-[(2S,3R)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-1-(4-{3-[(methylsulfonyl)amino]prop-1-yn-1-yl}phenyl)-4-oxoazetidin-2-yl]phenyl methyl β-D-glucopyranosiduronate | O([C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)C(=O)OC)C1=CC=C(C=C1)[C@H]1N(C([C@@H]1CC[C@H](O)C1=CC=C(C=C1)F)=O)C1=CC=C(C=C1)C#CCNS(=O)(=O)C | C35H37FN2O11S
